US06143764
4-Methoxyphenyl 4-iodophenyl ketone (Reference Example)
To commercially available nitromethane (10 ml) were added commercially available anisole (1.08 g), commercially available 4-iodobenzoyl chloride (2.67 g) and commercially available ytterbium(III) trifluoromethanesulfonate (620 mg), and the admixture was stirred at 60° C. overnight. The reaction mixture was partitioned between water and chloroform, and the chloroform layer was then dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate to obtain 722 mg of the title compound (yield: 21%).

reactant | anisole | 1.08 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-iodobenzoyl chloride | 2.67 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | ytterbium(III) trifluoromethanesulfonate | 620 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
product | 4-Methoxyphenyl 4-iodophenyl ketone | 722 mg, yield: 21% | IC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC | C14H11IO2
